US05114944
5.7-Dimethyl-2-phenylpyrazolo[1.5-a]pyrimidine-3-acetic acid ethyl ester
A mixture of 20.0 g (0.055 mole) of 3-amino-5-phenyl-1H-pyrazole-4-acetic acid butyl ester ethanedioate and 5.51 g (0.055 mole) of pentane-2,4-dione in 150 ml of 200 ethanol was treated with 10 ml of concentrated hydrochloric acid and stirred at room temperature for 17 hours.

reactant | 3-amino-5-phenyl-1H-pyrazole-4-acetic acid butyl ester ethanedioate | 0.055 mole, 20.0 g | C(C(=O)O)(=O)O.C(CCC)OC(CC=1C(=NNC1C1=CC=CC=C1)N)=O
reactant | pentane-2,4-dione | 0.055 mole, 5.51 g | CC(CC(C)=O)=O | C5H8O2
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5.7-Dimethyl-2-phenylpyrazolo[1.5-a]pyrimidine-3-acetic acid ethyl ester | C(C)OC(CC=1C(=NN2C1N=C(C=C2C)C)C2=CC=CC=C2)=O | C18H19N3O2
